US07714126B2
With a procedure similar to example 66 above, 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid {5-[(2-methoxy-ethyl)-methyl-amino]-pyridin-2-yl}amide was prepared from (2-methoxyethyl)-methyl-(6-nitropyridin-3-yl)-amine and 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid. The product was isolated as a yellow solid (200 mg, 37% yield). HRMS m/z calcd for C20H19F3N4O3 [M+H]+: 421.1482; Found: 421.1481.

reactant | (2-methoxyethyl)-methyl-(6-nitropyridin-3-yl)-amine | COCCN(C=1C=NC(=CC1)[N+](=O)[O-])C | C9H13N3O3
reactant | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F | C11H6F3NO3
product | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid {5-[(2-methoxy-ethyl)-methyl-amino]-pyridin-2-yl}amide | COCCN(C=1C=CC(=NC1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1)C | C20H19F3N4O3
